US04214089
2-Carboxymethyl-3-(p-Chlorophenyl)-2,3-Dihydro-3-Hydroxy-7-Methyl-7H-Imidazo[2,1-b]Thiazolium Hydroxide, Inner Salt
Finely ground 3-(p-chlorobenzoyl)-3-(1-methylimidazol-2-ylthio)propionic acid, hydrobromide, (6.0 g.) is added to 250 ml. of water and the mixture stirred for 20 min. The solid is collected and dried at room temperature. The crude material which weighs 4.6 g. and melts at 160°-2° is recrystallized from acetone. The recrystallized material melts at 161°-3°.

reactant | 3-(p-chlorobenzoyl)-3-(1-methylimidazol-2-ylthio)propionic acid, hydrobromide | Br.ClC1=CC=C(C(=O)C(CC(=O)O)SC=2N(C=CN2)C)C=C1
solvent | water | O | H2O
product | 2-Carboxymethyl-3-(p-Chlorophenyl)-2,3-Dihydro-3-Hydroxy-7-Methyl-7H-Imidazo[2,1-b]Thiazolium Hydroxide | [OH-].C(=O)(O)CC1C([N+]2=C(S1)N(C=C2)C)(O)C2=CC=C(C=C2)Cl | InChI=1S/C14H13ClN2O3S.H2O/c1-16-6-7-17-13(16)21-11(8-12(18)19)14(17,20)9-2-4-10(15)5-3-9;/h2-7,11,20H,8H2,1H3;1H2
